US04461907
4'-Chloroflavanone (4.0 g.) was dissolved in acetic acid (150 ml.) and concentrated hydrochloric acid (20 ml.) and added to wet zinc amalgam (prepared from zinc powder (80 g.) and mercuric chloride (6.4 g.)). The reaction mixture was stirred for 1 hr. then allowed to stand overnight. The residual zinc was filtered off and washed with water, and the filtrate and washings combined and diluted with water. The oily product was extracted into ether, and the extract washed with water and saturated sodium bicarbonate solution; it was dried with magnesium sulphate, filtered and evaporated, and the residue chromatographed on alkaline alumina, eluting with toluene. The eluate was evaporated and the residue recrystallised from ethanol, to give 4'-chloroflavan, m.p. 76°-77° C.

reactant | 4'-Chloroflavanone | 4.0 g | ClC1=CC=C(C2OC3=CC=CC=C3C(C2)=O)C=C1 | C15H11ClO2
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 4'-chloroflavan | ClC1=CC=C(C2OC3=CC=CC=C3CC2)C=C1 | C15H13ClO
